US07786108B2
Step 1. Preparation of 2-Hydroxyimino-N-indan-4-yl-acetamide
To a solution of chloral hydrate (5.46 g, 33 mmol) and anhydrous sodium sulfate (25.6 g, 180 mmol) in water (92 mL) add a mixture of hydroxylamine sulfate (25.6 g, 156 mmol), 4-aminoindane (4 g, 30 mmol), concentrated hydrochloric acid (3.1 mL) in water (30.8 mL). Heat the mixture up to 45° C. for 90 min, to 52° C. over 45 min and to 75° C. for 60 min. Cool the mixture to room temperature and filter the solid. Wash the solid with water and hexane. Dry the solid under vacuum to yield the title compound (5.54 g, 90%). MS (ES−): 203 (M−H).

reactant | chloral hydrate | 33 mmol, 5.46 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | sodium sulfate | 180 mmol, 25.6 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydroxylamine sulfate | 156 mmol, 25.6 g | S(=O)(=O)(O)O.NO
reactant | 4-aminoindane | 30 mmol, 4 g | NC1=C2CCCC2=CC=C1 | C9H11N
reactant | hydrochloric acid | 3.1 mL | Cl | ClH
solvent | water | 92 mL | O | H2O
solvent | water | 30.8 mL | O | H2O
product | 2-Hydroxyimino-N-indan-4-yl-acetamide | 5.54 g, 90% | ON=CC(=O)NC1=C2CCCC2=CC=C1 | C11H12N2O2
